US08703797B2
A solution of tert-butyl 3-hydroxy-4-methyl-3-(2-pivalamidopyridin-3-yl)pentanoate (3.78 g, 10.4 mmol) in 12.0 mL 3N HCl were reacted as outlined in Scheme 1 to give the desired 4-isopropyl-1,8-naphthyridin-2(1 H)-one (800 mg, 41%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.34 (d, J=7.03 Hz, 6 H) 3.34 (quin, J=6.81 Hz, 1 H) 6.66 (s, 1 H) 7.23 (dd, J=12.31, 4.10 Hz, 2 H) 8.09 (dd, J=8.06, 1.61 Hz, 1 H) 8.71 (dd, J=4.69, 1.47 Hz, 1 H) 11.98 (br. s., 1 H).

reactant | tert-butyl 3-hydroxy-4-methyl-3-(2-pivalamidopyridin-3-yl)pentanoate | 10.4 mmol, 3.78 g | OC(CC(=O)OC(C)(C)C)(C(C)C)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C20H32N2O4
solvent | HCl | 3N, 12.0 mL | Cl | ClH
product | 4-isopropyl-1,8-naphthyridin-2(1 H)-one | 800 mg, 41% | C(C)(C)C1=CC(NC2=NC=CC=C12)=O | C11H12N2O
